US04254262
In a reactor, 100 ml of chlorobenzene and 100 ml of water were charged and then, 95.3 g (0.375 mole) of 4-(4-trifluoromethylphenoxy)phenol, 85.4 g (0.412 mole) of ethyl 4-bromo-2-pentenoate, 39.0 g (0.281 mole) of potassium carbonate and 1.1 g (0.00375 mole) of tributylethyl ammonium bromide were added. The mixture was refluxed with stirring for 6 hours to react them, and the water phase was removed and the organic phase was washed with 5% hydrochloric acid and with water and then, chlorobenzene, ethyl 4-bromo-2-pentenoate and low boiling by-products were distilled off at 100° C. under a reduced pressure of 0.02 to 0.05 mmHg to obtain 137.0 g of ethyl 4-[4-(4-trifluoromethylphenoxy)phenoxy]-2-pentenoate. The yield was 96.0%.

reactant | chlorobenzene | 100 ml | ClC1=CC=CC=C1 | C6H5Cl
reactant | 4-(4-trifluoromethylphenoxy)phenol | 0.375 mole, 95.3 g | FC(C1=CC=C(OC2=CC=C(C=C2)O)C=C1)(F)F | C13H9F3O2
reactant | ethyl 4-bromo-2-pentenoate | 0.412 mole, 85.4 g | BrC(C=CC(=O)OCC)C | C7H11BrO2
reactant | potassium carbonate | 0.281 mole, 39.0 g | C([O-])([O-])=O.[K+].[K+]
catalyst | tributylethyl ammonium bromide | 0.00375 mole, 1.1 g | [Br-].C(CCC)[N+](CC)(CCCC)CCCC
solvent | water | 100 ml | O | H2O
product | ethyl 4-[4-(4-trifluoromethylphenoxy)phenoxy]-2-pentenoate | 137.0 g, yield was 96.0% | FC(C1=CC=C(OC2=CC=C(OC(C=CC(=O)OCC)C)C=C2)C=C1)(F)F | C20H19F3O4
